US04999378
(1) Methyl 4-[3-[N-(4-chlorophenyl]-N-ethylamino]propoxy]benzoate
Methyl 4-[3-[N-(4-chlorophenyl)amino]propoxy]benzoate (1.2 g) and sodium bicarbonate (1.58 g) were dissolved and suspended in DMF (10 ml), and ethyl iodide (1.52 ml) was added thereto. The mixture was heated with stirring at 100° C. for 11 hours, and cooled. Water and ethyl acetate were added thereto and the mixture was separated into layers. The organic layer was washed with water 3 times, and concentrated under reduced pressure to give the oily desired product (1.38 g).

reactant | Methyl 4-[3-[N-(4-chlorophenyl)amino]propoxy]benzoate | 1.2 g | ClC1=CC=C(C=C1)NCCCOC1=CC=C(C(=O)OC)C=C1 | C17H18ClNO3
reactant | sodium bicarbonate | 1.58 g | C([O-])(O)=O.[Na+]
reactant | ethyl iodide | 1.52 ml | C(C)I | C2H5I
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-[3-[N-(4-chlorophenyl]-N-ethylamino]propoxy]benzoate | 1.38 g | ClC1=CC=C(C=C1)N(CC)CCCOC1=CC=C(C(=O)OC)C=C1 | C19H22ClNO3
